US07119221B2
A solution of tert-butyl 1-[9-[1-(tert-butoxycarbonyl)cyclopropyl]-5-oxononyl]-1-cyclopropanecarboxylate (5.31 g, 12.6 mmol) in HCO2H (50 mL) was stirred for 3 h, evaporated in vacuo and coevaporated from toluene (3×25 mL) to give 1-[9-(1-carboxycyclopropyl)-5-oxononyl]-1-cyclopropanecarboxylic acid (3.89 g, 99%) as a white solid. An analytical sample was obtained after recrystallization from iPr2O/heptane. mp: 132–134° C. 1H NMR (CD3OD): δ=2.45 (t, J=6.9 Hz, 4H), 1.58–1.39 (m, 12H), 1.14 (dd, J=6.6, 3.7 Hz, 4H), 0.70 (dd, J=6.8, 3.9 Hz, 4H). 13C NMR (CD3OD): δ=214.4, 179.4 (2×), 43.5 (2×), 34.9 (2×), 28.5 (2×), 25.1 (2×), 24.2 (2×), 16.2 (4×). Anal calcd for C17H26O5: C, 65.78; H, 8.44, found: C, 65.40; H, 8.37.

reactant | tert-butyl 1-[9-[1-(tert-butoxycarbonyl)cyclopropyl]-5-oxononyl]-1-cyclopropanecarboxylate | 12.6 mmol, 5.31 g | C(C)(C)(C)OC(=O)C1(CC1)CCCCC(CCCCC1(CC1)C(=O)OC(C)(C)C)=O | C25H42O5
solvent | HCO2H | 50 mL | C(=O)O | CH2O2
product | 1-[9-(1-carboxycyclopropyl)-5-oxononyl]-1-cyclopropanecarboxylic acid | 3.89 g, 99% | C(=O)(O)C1(CC1)CCCCC(CCCCC1(CC1)C(=O)O)=O | C17H26O5
